US07582773B2
Step 2: Synthesis of [4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester (0.147 g, 0.309 mmol) was reacted with 1N KOH (0.62 ml) in THF/MeOH (3 ml/2 ml) to give the product (0.072 g, 0.156 mmol, 50%) as a tan solid, mp 180-183° C. 1H NMR (DMSO-d6), δ 2.35 (s, 3H), 4.10 (s, 2H), 4.66 (s, 2H), 5.42 (s, 2H), 6.94 (d, J=8.9 Hz, 2H), 6.99 (d, J=7.0 Hz, 2H), 7.09-7.13 (m, 1H), 7.20-7.30 (m, 8H), 7.39 (d, J=8.4 Hz, 1H), 7.49 (d, J=8.7 Hz, 2H), 7.58 (d, J=1.5 Hz, 1H), 13.00 (broad s, 1H); IR (solid) 3010, 2905, 1730, 1520, 1480, and 1240 cm−1; [ESI(+)], m/z 462 (M+H)+; Anal. Calcd. for C31H27NO3: C, 80.67; H, 5.90; N, 3.03; Found: C, 80.60; H, 5.79; N, 2.94.

reactant | [4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | 0.309 mmol, 0.147 g | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC1=CC=CC=C1)=O | C32H29NO3
reactant | KOH | 1N, 0.62 ml | [OH-].[K+]
solvent | THF MeOH | 3 ml | C1CCOC1.CO
product | [4-(1,3-Dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC(=O)O)C=C1)CC1=CC=CC=C1)C | C31H27NO3
